US07432289B2
5′-Amino-N-(cyclopropylmethyl)-2′-methyl-1,1′-biphenyl-4-carboxamide (42 mg, 0.15 mmol) and 2-fur-2-ylquinoline-4-carboxylic acid (95.7 mg, 0.4 mmol) were mixed in THF (5 ml) and the mixture shaken in a varian tube for 30 min at room temperature. Carbodiimde resin (442 mg, 0.5 mmol) was added and shaking continued for 18 h. The solution was filtered off, the resin washed with THF and methanol and the combined filtrate and washings reduced to dryness under vacuum. The residue was dissolved in ethyl acetate, washed with hydrochloric acid (1M) and aqueous sodium hydrogen carbonate. The solvent was evaporated from the organic fraction under vacuum to give N-(4′-{[(cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)-2-fur-2-ylquinoline-4-carboxamide. NMR; δH [2H6]—DMSO 10.85,(1H, s), 8.62,(1H, t), 8.12-8.07,(3H, m), 7.97,(1H, m), 7.94,(2H, d), 7.82,(1H, m), 7.72,(2H, m), 7.63,(1H, m), 7.49-7.45,(3H, m), 7.34,(1H, d), 6.75,(1H, m), 3.16,(2H, t), 2.23,(3H, s), 1.04,(1H, m), 0.43,(2H, m), 0.24,(2H, m). LCMS: retention time 3.69 min, MH+502.

reactant | 5′-Amino-N-(cyclopropylmethyl)-2′-methyl-1,1′-biphenyl-4-carboxamide | 0.15 mmol, 42 mg | NC=1C=CC(=C(C1)C1=CC=C(C=C1)C(=O)NCC1CC1)C | C18H20N2O
reactant | 2-fur-2-ylquinoline-4-carboxylic acid | 0.4 mmol, 95.7 mg | O1C(=CC=C1)C1=NC2=CC=CC=C2C(=C1)C(=O)O | C14H9NO3
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | N-(4′-{[(cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)-2-fur-2-ylquinoline-4-carboxamide | C1(CC1)CNC(=O)C1=CC=C(C=C1)C1=CC(=CC=C1C)NC(=O)C1=CC(=NC2=CC=CC=C12)C=1OC=CC1 | C32H27N3O3
